US08003977B2
(iii) Synthesis of 9-iodo-10-phenylanthracene
3.33 g (10 mmol) of 9-bromo-10-phenylanthracene was dissolved in 80 ml of tetrahydrofuran (abbreviation: THF), and the temperature was lowered to −78° C. 7.5 ml (12.0 mmol) of n-BuLi (1.6M) was dropped into the reaction solution by a dropping funnel, and it was stirred for 1 hour. A solution in which 5 g (20.0 mmol) of iodine was dissolved in 20 ml of THF was dropped and stirred for 2 hours at −78° C. After reaction, a sodium thiosulfate water solution was added to stop the reaction. An organic layer was washed with a sodium thiosulfate water solution and a saturated saline and dried with magnesium sulfate. After the natural filtration, the filtrate was concentrated and the obtained solid was recrystallized by ethanol. Then, 3.1 g of a light-yellow solid of 9-iodo-10-phenylanthracene, which was the intended object, was obtained with a yield of 83% (synthetic scheme of (b-5)).

reactant | 9-bromo-10-phenylanthracene | 10 mmol, 3.33 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13Br
reactant | n-BuLi | 12.0 mmol, 1.6M, 7.5 ml | [Li]CCCC
reactant | iodine | 20.0 mmol, 5 g | II | I2
reactant | sodium thiosulfate water | O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 9-iodo-10-phenylanthracene | yield of 83% | IC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13I
